US06818632B2
3-Ethyl-3-(4-{(Z)-[(7-oxo-6,7-dihydro-8H-[1,3]thiazolo[5,4-e]indol-8-ylidene)methyl]amino}phenyl)-2,6-piperidinedione
A mixture of 8-dimethylamino-methylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one (Procecure E, 0.040 g, 0.163 mmol), DL-aminoglutethimide (0.055 g, 0.237 mmol) in absolute ethanol (5 ml) was heated with stirring at 90°0 C. for 16 h. The reaction was diluted with ethanol and diethyl ether and the product collected by filtration to yield 0.038 g (54%) of the title compound. 1H NMR (DMSO-d6): δ11.00 (d,1H, J=12.5 Hz), 10.88 (s,1H), 10.83 (s,1H), 9.23 (s, H), 8.02 (d,1H, J=12.5 Hz), 7.77 (d,1H, J=8. 6 Hz), 7.42 (d,2H, J=8.9 Hz), 7.31 (d,2H, J=8.9 Hz), 7.09 (d,1H, J=8.2 Hz), 2.44-2.34 (m,2H), 2.15-2.13 (m,2H), 1.86-1.02 (m,2H), 0.75 (t,3H, J=7.3 Hz); ES-MS m/z 431 (M−H).

reactant | 8-dimethylamino-methylene-6,8-dihydro-1-thia-3,6-diaza-as-indacen-7-one | 0.163 mmol, 0.040 g | CN(C1C(NC2=CC=C3N=CS(C3=C12)=C)=O)C | C12H13N3OS
reactant | DL-aminoglutethimide | 0.237 mmol, 0.055 g | CCC1(CCC(=O)NC1=O)C2=CC=C(C=C2)N | C13H16N2O2
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-Ethyl-3-(4-{(Z)-[(7-oxo-6,7-dihydro-8H-[1,3]thiazolo[5,4-e]indol-8-ylidene)methyl]amino}phenyl)-2,6-piperidinedione | 0.038 g, 54% | C(C)C1(C(NC(CC1)=O)=O)C1=CC=C(C=C1)N\C=C\1/C(NC2=CC=C3C(=C12)SC=N3)=O | C23H20N4O3S
